US07074819B2
Step 1) Synthesis of ethyl 3-oxa-8-nonynoate
To a solution of 5-hexyn-1-ol (2.0 g, 20.4 mmol) in N,N-dimethylformamide (40 ml) was added sodium hydride (815 g, 60% in oil, 20.41 mmol) at 0° C. The mixture was stirred for 1 hour, and ethyl bromoacetate (3.4 ml, 30.5 mmol) was added thereto. The mixture was stirred at the same temperature for 1 hour. After the reaction was completed, water was added thereto. The resulting mixture was extracted with ethyl acetate. The organic layer was washed with saturated saline solution, dried over anhydrous sodium sulfate, and filtered. The organic solvent was removed under reduced pressure to give a crude product. This crude product thus obtained was subjected to silica gel column chromatography (n-hexane:ethyl acetate=4:1) to give the title compound (1.38 g, yield: 37%).

reactant | 5-hexyn-1-ol | 20.4 mmol, 2.0 g | C(CCCC#C)O | C6H10O
reactant | sodium hydride | 20.41 mmol, 815 g | [H-].[Na+]
reactant | ethyl bromoacetate | 30.5 mmol, 3.4 ml | BrCC(=O)OCC | C4H7BrO2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | n-hexane | CCCCCC | C6H14
product | ethyl 3-oxa-8-nonynoate | 1.38 g, yield: 37% | C(COCCCCC#C)(=O)OCC | C10H16O3
